US08809339B2
2-amino-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide
Into a 100-mL round bottom flask, was placed a solution of 2-nitro-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide (100 mg, 0.25 mmol, 1.00 equiv) in EtOAc/EtOH (5/5 mL). The mixture was treated with Pd/C (10 mg) and stirred under a hydrogen atmosphere for 2 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 90 mg (97%) of product as a yellow solid.

reactant | 2-nitro-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide | 0.25 mmol, 100 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C(=O)NC=2C=NC(=NC2)C2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C22H21N5O3
solvent | EtOAc EtOH | 5 mL | CCOC(=O)C.CCO
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 2-amino-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide | 90 mg, 97% | NC1=C(C(=O)NC=2C=NC(=NC2)C2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C22H23N5O
